US08865726B2
A solution containing (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-phenyloxazolidin-2-one (0.100 g, 0.278 mmol), 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazole (0.334 g, 0.835 mmol) and 2M Na2CO3 (0.418 mL, 0.835 mmol) in dioxane (10 mL) was degassed with argon. Dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine (13.3 mg, 0.0278 mmol) and Pd2(dba)3 (6.5 mg, 0.028 mmol), were added and the solution was degassed again with argon. The reaction vessel was sealed and heated to 80° C. for 18 hours. The cooled reaction mixture was partitioned between ethyl acetate and brine. The organic layer was dried over sodium sulfate, filtered, and concentrated. Purification of the crude material by column chromatography, eluting with 1-5% MeOH/dichloromethane afforded the protected intermediate which was taken up in dichloromethane (2 mL). Trifluoroacetic acid (2 mL) was added and the mixture stirred at ambient temperature for 12 hours. The reaction mixture was concentrated, washed with saturated aqueous NaHCO3, extracted into ethyl acetate, dried over sodium sulfate, filtered and concentrated. Purification of the crude material by column chromatography, eluting with 2-4% MeOH/dichloromethane, afforded (S)-3-(3-(4-(1H-imidazol-2-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-phenyloxazolidin-2-one as a light yellow solid, 14 mg (12%). LCMS (APCI+) m/z 423 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ 9.10 (d, J=7.8 Hz, 1H), 8.65 (s, 1H), 7.93 (d, J=7.8 Hz, 1H), 7.91 (d, J=8.6 Hz, 2H), 7.78 (d, J=8.6 Hz, 2H), 7.44-7.50 (m, 5H), 7.22 (s, 2H), 5.94-5.98 (m, 1H), 4.93 (t, J=8.6 Hz, 1H), 4.23-4.27 (m, 1H).

reactant | (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-phenyloxazolidin-2-one | 0.278 mmol, 0.100 g | BrC=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=CC=CC=C2)=O | C15H11BrN4O2
reactant | 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazole | 0.835 mmol, 0.334 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C=1N(C=CN1)COCC[Si](C)(C)C)C | C21H33BN2O3Si
reactant | Na2CO3 | 0.835 mmol, 2M, 0.418 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine | 0.0278 mmol, 13.3 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | Trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
catalyst | Pd2(dba)3 | 0.028 mmol, 6.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (S)-3-(3-(4-(1H-imidazol-2-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-phenyloxazolidin-2-one | N1C(=NC=C1)C1=CC=C(C=C1)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=CC=CC=C2)=O | C24H18N6O2
